US04021461
A mixture of 18.5 g. of 6,10-dimethylundec-2-yn-4-ol, 80 g. of triethylorthacetate and 0.75 g. of propionic acid is refluxed under a spinning band column to remove ethanol as it is formed. After the elimination of ethanol is about complete, the crude reaction product is distilled under vacuum to yield ethyl 3,7,11-trimethyldodeca-3,4-dienoate. Alternatively, the crude reaction product is purified by chromatography on silica.

reactant | 6,10-dimethylundec-2-yn-4-ol | CC(CC(C#CC)O)CCCC(C)C | C13H24O
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | ethanol | C(C)O | C2H6O
product | ethyl 3,7,11-trimethyldodeca-3,4-dienoate | CC(CC(=O)OCC)=C=CCC(CCCC(C)C)C | C17H30O2
